US05055451
N-Tosyl-L-phenylalanine 2,4,6-trimethylbenzoyloxymethyl Ketone
N-tosyl-glycyl-L-phenylalanyl-L-alanine 2,4,6-trimethylbenzoyloxymethyl ketone from N-tosyl-glycyl-L-phenylalanyl-L-alanine bromomethyl ketone and 2,4,6-trimethylbenzoic acid.

reactant | N-tosyl-glycyl-L-phenylalanyl-L-alanine 2,4,6-trimethylbenzoyloxymethyl ketone | CC1=C(C(=O)OCC(=O)COC(C2=C(C=C(C=C2C)C)C)=O)C(=CC(=C1)C)C.S(=O)(=O)(C1=CC=C(C)C=C1)NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](C)C(=O)O
reactant | N-tosyl-glycyl-L-phenylalanyl-L-alanine bromomethyl ketone | BrCC(=O)CBr.S(=O)(=O)(C1=CC=C(C)C=C1)NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](C)C(=O)O
reactant | 2,4,6-trimethylbenzoic acid | CC1=C(C(=O)O)C(=CC(=C1)C)C | C10H12O2
product | N-Tosyl-L-phenylalanine 2,4,6-trimethylbenzoyloxymethyl Ketone | CC1=C(C(=O)OCC(=O)COC(C2=C(C=C(C=C2C)C)C)=O)C(=CC(=C1)C)C.S(=O)(=O)(C1=CC=C(C)C=C1)N[C@@H](CC1=CC=CC=C1)C(=O)O | InChI=1S/C23H26O5.C16H17NO4S/c1-13-7-15(3)20(16(4)8-13)22(25)27-11-19(24)12-28-23(26)21-17(5)9-14(2)10-18(21)6;1-12-7-9-14(10-8-12)22(20,21)17-15(16(18)19)11-13-5-3-2-4-6-13/h7-10H,11-12H2,1-6H3;2-10,15,17H,11H2,1H3,(H,18,19)/t;15-/m.0/s1
